US04377695
8-(2-Oxo-benzoxazolin-3-yl)-caprylic acid
The product is produced as described in example 22 from 14.5 g. of 8-(2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester and 2.4 g. of NaOH. Eluant in chromatographic purification: chloroform.

reactant | 8-(2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=CC=C2)=O)=O | C16H21NO4
reactant | NaOH | [OH-].[Na+]
product | 8-(2-Oxo-benzoxazolin-3-yl)-caprylic acid | O=C1OC2=C(N1CCCCCCCC(=O)O)C=CC=C2 | C15H19NO4
